US08124641B2
To a solution of methanesulfonic acid 2-((R)-4-benzyloxycarbonylamino-4,5,6,7-tetrahydroindazol-1-yl)-ethyl ester (850 mg, 2.16 mmol) in dimethyl sulfoxide (20 mL) was added sodium cyanide (540 mg, 10.8 mmol). The mixture was stirred at 55° C. for 4 hours. After cooling, to the mixture was added water, and the aqueous layer was extracted with ethyl acetate (20 mL×4). The combined organic layers were dried over sodium sulfate, filtered and then concentrated in vacuo. The residue was purified by flash column chromatography (10% methanol in dichloromethane) to afford (R)-[1-(2-cyano-ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl]-carbamic acid benzyl ester (600 mg, 85%) as a white solid. MS calcd. for C18H20N4O2 324, obsd. (ESI+) [(M+H)+] 325.

reactant | methanesulfonic acid 2-((R)-4-benzyloxycarbonylamino-4,5,6,7-tetrahydroindazol-1-yl)-ethyl ester | 2.16 mmol, 850 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C=2C=NN(C2CCC1)CCOS(=O)(=O)C | C18H23N3O5S
reactant | sodium cyanide | 10.8 mmol, 540 mg | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | (R)-[1-(2-cyano-ethyl)-4,5,6,7-tetrahydro-1H-indazol-4-yl]-carbamic acid benzyl ester | 600 mg, 85% | C(C1=CC=CC=C1)OC(N[C@H]1C=2C=NN(C2CCC1)CCC#N)=O | C18H20N4O2
